* AD8519/AD8529 SPICE Macro-model
* Description: Amplifier
* Generic Desc: 2.7/12V, BIP, OP, Low Pwr, RRO, 1X
* Developed by: TAM / ADSC
* Revision History: 08/10/2012 - Updated to new header style
* 1.0 (10/1998)
* Copyright 1998, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes
*
* Node Assignments
*		noninverting input
*		|	inverting input
*		|	|	positive supply
*		|	|	|	negative supply
*		|	|	|	|	output
*		|	|	|	|	|
*		|	|	|	|	|
.SUBCKT AD8519	1	2	99	50	45
*
*INPUT STAGE
*
Q1   5  7 15 PIX
Q2   6  2 15 PIX
IOS  1  2 1.25E-9
I1  99 15 200E-6
EOS  7  1 POLY(2) (14,98) (73,98) 1E-3 1 1
RC1  5 50 2E3
RC2  6 50 2E3
C1   5  6 1.3E-12
D1  15  8 DX
V1  99  8 DC 0.9
*
* INTERNAL VOLTAGE REFERENCE
*
EREF 98  0 POLY(2) (99,0) (50,0) 0 .5 .5
ISY  99 50 300E-6
*
* CMRR=100dB, ZERO AT 1kHz
*
ECM   13 98 POLY(2) (1,98) (2,98) 0 0.5 0.5
RCM1  13 14 1E6
RCM2  14 98 10
CCM1  13 14 240E-12
*
* PSRR=100dB, ZERO AT 200Hz
*
RPS1 70  0 1E6
RPS2 71  0 1E6
CPS1 99 70 1E-5
CPS2 50 71 1E-5
EPSY 98 72 POLY(2) (70,0) (0,71) 0 1 1
RPS3 72 73 1.59E6
CPS3 72 73 500E-12
RPS4 73 98 15.9
*
* POLE AT 20MHz, ZERO AT 60MHz
*
G1 21 98 (5,6) 5.88E-6
R1 21 98 170E3
R2 21 22 85E3
C2 22 98 40E-15
*
* GAIN STAGE
*
G2  25 98 (21,98) 37.5E-6
R5  25 98 1E7
CF  45 25 5E-12
D3  25 99 DX
D4  50 25 DX
*
* OUTPUT STAGE
*
Q3   45 41 99 POUT
Q4   45 43 50 NOUT
EB1  99 40 POLY(1) (98,25) 0.594  1
EB2  42 50 POLY(1) (25,98) 0.594  1
RB1  40 41 500
RB2  42 43 500
*
* MODELS
*
.MODEL PIX PNP (BF=500,IS=1E-14,KF=5E-6)
.MODEL POUT PNP (BF=100,IS=1E-14,BR=0.517)
.MODEL NOUT NPN (BF=100,IS=1E-14,BR=0.413)
.MODEL DX D(IS=1E-14,CJO=1E-15)
.ENDS AD8519



